US07608563B2
In toluene (100 mL) was dissolved 5.32 g (49.3 mmol) of 2-methylphenol, and 1.13 g (49.1 mmol) of sodium, and then, 5.80 g (27.2 mmol) of 3,4,6-trichloro-5-methoxypyridazine were added to the solution and the resulting mixture was stirred for 4 hours under reflux. The reaction mixture was poured into ice-cold water, and extracted with ethyl acetate. The organic layers were combined, washed successively with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, gradient) and recrystallized from isopropyl ether to obtain 3.0 g (8.4 mmol, Yield: 31%) of 3-chloro-5-methoxy-4,6-bis(2-methylphenoxy)pyridazine.

reactant | 2-methylphenol | 49.3 mmol, 5.32 g | CC1=C(C=CC=C1)O | C7H8O
reactant | sodium | 49.1 mmol, 1.13 g | [Na] | Na
reactant | 3,4,6-trichloro-5-methoxypyridazine | 27.2 mmol, 5.80 g | ClC=1N=NC(=C(C1Cl)OC)Cl | C5H3Cl3N2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-5-methoxy-4,6-bis(2-methylphenoxy)pyridazine | 8.4 mmol, 3.0 g, Yield: 31% | ClC=1N=NC(=C(C1OC1=C(C=CC=C1)C)OC)OC1=C(C=CC=C1)C | C19H17ClN2O3
